US07582761B2
(a) N2-(4-Methoxy-benzyl)-6-trifluoromethyl-pyridine-2,3-diamine
A mixture of the 3-amino-2-chloro-6-(trifluoromethyl)pyridine (416 mg, 2.1 mmol, Matrix), 4-methoxy-benzylamine (294 mg, 2.1 mmol, Aldrich) and sodium bicarbonate (265 mg, 3.2 mmol) in isoamyl alcohol (0.6 mL) was heated at 220° C. in a microwave synthesizer for 30 min. The reaction mixture was then cooled to room temperature, diluted with MeOH (5 mL), filtered and the filtrate was evaporated in vacuo. The residue was purified by preparative HPLC (gradient 0.1% trifluoroacetic acid in acetonitrile) to give the title compound as a yellow oil. MS (ESI, pos. ion) m/z: 298 (M+1)

reactant | 3-amino-2-chloro-6-(trifluoromethyl)pyridine | 2.1 mmol, 416 mg | NC=1C(=NC(=CC1)C(F)(F)F)Cl | C6H4ClF3N2
reactant | 4-methoxy-benzylamine | 2.1 mmol, 294 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium bicarbonate | 3.2 mmol, 265 mg | C([O-])(O)=O.[Na+]
solvent | isoamyl alcohol | 0.6 mL | C(CC(C)C)O | C5H12O
solvent | MeOH | 5 mL | CO | CH4O
product | N2-(4-Methoxy-benzyl)-6-trifluoromethyl-pyridine-2,3-diamine | COC1=CC=C(CNC2=NC(=CC=C2N)C(F)(F)F)C=C1 | C14H14F3N3O
